US07687502B2
(6-Isopropoxy-quinazolin-4-yl)-thiazolo[5,4-b]pyridin-2-yl-amine
The compound of Example 24 was manufactured by the same method as in Example 22, by a similar method thereto or by a combination of such a method with a conventional method using 4-chloro-6-hydroxy-quinazoline, 2-propanol and thiazolo[5,4-b]pyridin-2-yl-amine.

reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
reactant | thiazolo[5,4-b]pyridin-2-yl-amine | N1=C(SC2=NC=CC=C21)N | C6H5N3S
reactant | 2-propanol | CC(C)O | C3H8O
product | (6-Isopropoxy-quinazolin-4-yl)-thiazolo[5,4-b]pyridin-2-yl-amine | C(C)(C)OC=1C=C2C(=NC=NC2=CC1)NC=1SC2=NC=CC=C2N1 | C17H15N5OS
